US08754079B2
246.2 4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (2-amino-cyclopropyl)-amide
A mixture of 0.15 g [2-({4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl}amino)-cyclopropyl]-carbamic acid tert-butyl ester in 5 ml dioxane was added 1 M hydrochloric acid solution in Dioxan and was stirred at rt overnight. The reaction mixture was concentrated and the residue was purified by chromatography.

reactant | [2-({4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl}amino)-cyclopropyl]-carbamic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(NC1C(C1)NC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](C2)NC(C)=O)S1)C)=O | C28H33FN6O5S
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (2-amino-cyclopropyl)-amide | NC1C(C1)NC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](C2)NC(C)=O)S1)C | C23H25FN6O3S
